US07612114B2
6-(2-Benzylaminobenzyl)-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from 2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-ylmethyl)phenyl trifluoromethanesulfonate (1.4 g) and benzylamine (650 mg) according to an analogous synthetic method to Example 116, benzyl[2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-ylmethyl)phenyl]amine was used according to an analogous synthetic method to Example 785 to provide the title compound (440 mg).

reactant | 2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-ylmethyl)phenyl trifluoromethanesulfonate | 1.4 g | FC(S(=O)(=O)OC1=C(C=CC=C1)CC1CC2=CC=C(C=C2CC1)OC)(F)F | C19H19F3O4S
reactant | benzylamine | 650 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | benzyl[2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-ylmethyl)phenyl]amine | C(C1=CC=CC=C1)NC1=C(C=CC=C1)CC1CC2=CC=C(C=C2CC1)OC | C25H27NO
product | 6-(2-Benzylaminobenzyl)-5,6,7,8-tetrahydronaphthalen-2-ol | 440 mg | C(C1=CC=CC=C1)NC1=C(CC2CC=3C=CC(=CC3CC2)O)C=CC=C1 | C24H25NO
